US09029544B2
Ethyl 4-((S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(hydroxy)methyl)benzoate
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and ethyl 4-iodobenzoate.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
reactant | ethyl 4-iodobenzoate | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
product | Ethyl 4-((S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(hydroxy)methyl)benzoate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](C1=CC=C(C(=O)OCC)C=C1)O)I | C30H44INO4Si
